US08119648B2
1-(2-{2-[(ethoxycarbonyl)methoxy]-phenyl}-2-oxo-ethyl)-3-methyl-7-(3-methyl-2-buten-1-yl)-8-[3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-xanthine
63 mg of ethyl bromoacetate are added to a mixture of 200 mg of 1-[2-(2-hydroxy-phenyl)-2-oxo-ethyl]-3-methyl-7-(3-methyl-2-buten-1-yl)-8-[3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-xanthine and 63 mg of potassium carbonate in 3 ml N,N-dimethylformamide. The reaction mixture is stirred for five hours at ambient temperature. For working up it is combined with water and the precipitate formed is suction filtered, washed with water and dried for three hours at 80° C. in the drying cupboard.

reactant | ethyl bromoacetate | 63 mg | BrCC(=O)OCC | C4H7BrO2
reactant | 1-[2-(2-hydroxy-phenyl)-2-oxo-ethyl]-3-methyl-7-(3-methyl-2-buten-1-yl)-8-[3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-xanthine | 200 mg | OC1=C(C=CC=C1)C(CN1C(=O)N(C=2N=C(N(C2C1=O)CC=C(C)C)N1CC(CCC1)NC(=O)OC(C)(C)C)C)=O | C29H38N6O6
reactant | potassium carbonate | 63 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 1-(2-{2-[(ethoxycarbonyl)methoxy]-phenyl}-2-oxo-ethyl)-3-methyl-7-(3-methyl-2-buten-1-yl)-8-[3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-xanthine | C(C)OC(=O)COC1=C(C=CC=C1)C(CN1C(=O)N(C=2N=C(N(C2C1=O)CC=C(C)C)N1CC(CCC1)NC(=O)OC(C)(C)C)C)=O | C33H44N6O8
